US05888940
First, 4-chloro-6-fluoro-7-isocyanato-2-(methylthio)benzothiazole was prepared by refluxing a solution of 7 g (28 mmol) of 7-amino-4-chloro-6-fluoro-2-(methylthio)benzothiazole and 55 g (0.28 mol) of diphosgene (200 ml of toluene for 7 hours, then adding 20 g (0.1 mol) of phosgene, refluxing for a further 8 hours and finally evaporating down.

reactant | 7-amino-4-chloro-6-fluoro-2-(methylthio)benzothiazole | 28 mmol, 7 g | NC1=C(C=C(C=2N=C(SC21)SC)Cl)F | C8H6ClFN2S2
reactant | diphosgene | 0.28 mol, 55 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | phosgene | 0.1 mol, 20 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-6-fluoro-7-isocyanato-2-(methylthio)benzothiazole | ClC1=CC(=C(C2=C1N=C(S2)SC)N=C=O)F | C9H4ClFN2OS2
